US05945438
Synthesis of 2-methylthio-2,2,2',4'-tetrafluoroacetophenone [Compound (2c-1)]
To a 20 ml solution of 0.5 g (2.5 mmol) of 2',4'-difluoro-2-(methylthio)acetophenone [Compound (2a-1)] in 1,1,2-trichloroethane, 3.0 g (12.1 mmol) of N-fluoropyridinium triflate ("Onoda Fluorinate FP-T500", trade name; product of Chichibu Onoda Co., Ltd.) were added at an internal temperature of 80° C., followed by stirring at an internal temperature of 100° C. for one hour. After cooling, the reaction mixture was added to n-hexane. The insoluble matter precipitated was filtered off. The insoluble matter was then washed with ethyl ether, followed by combination with the hexane layer. The layers so combined were washed successively with water and saturated saline, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue so obtained was subjected to chromatography on a silica gel column using chloroform, whereby 0.28 g of the title Compound (2c-1) was obtained in the form of a light yellow oil (yield: 47.5%).

reactant | 2',4'-difluoro-2-(methylthio)acetophenone | 2.5 mmol, 0.5 g | FC1=C(C=CC(=C1)F)C(CSC)=O | C9H8F2OS
reactant | N-fluoropyridinium triflate | 12.1 mmol, 3.0 g | [O-]S(=O)(=O)C(F)(F)F.F[N+]1=CC=CC=C1
reactant | n-hexane | CCCCCC | C6H14
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | 1,1,2-trichloroethane | ClC(CCl)Cl | C2H3Cl3
product | 2-methylthio-2,2,2',4'-tetrafluoroacetophenone | 0.28 g | CSC(C(=O)C1=C(C=C(C=C1)F)F)(F)F | C9H6F4OS
